US04740517
(a) 3-Bromo-6-fluorochromanone
To a solution of 6-fluorochromanone 99.6 g, 0.6 mol) in 500 ml of acetic acid, 96.0 g (0.6 mol) of bromine were added in dropwise at a rate so as to maintain a reaction temperature at 25° C. After stirring the reactants for 2.0 hours at 25° C., the reaction mixture was poured into 1.2 liter of cracked ice with stirring. Resulting precipitate was subsequently filtered, washed with water and then dried on air to give 140 g (95.2%) of the desired compound.

reactant | 6-fluorochromanone | 0.6 mol, 99.6 g | FC=1C=C2CCC(OC2=CC1)=O | C9H7FO2
reactant | bromine | 0.6 mol, 96.0 g | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-6-fluorochromanone | 140 g, 95.2% | BrC1C(OC2=CC=C(C=C2C1)F)=O | C9H6BrFO2
